US08242139B2
ethyl 2-cyano-2-cyclopentylideneacetate
To an ambient solution of hexamethyldisilazane (17.7 mL, 84.0 mmol) m acetic acid (56 mL) was added sequentially cyclopentanone (5.0 mL, 56.3 mmol) and ethyl 2-cyanoacetate (12.0 mL, 113 mmol). The solution was heated to 70° C. for 15 hours. The reaction was cooled to room temperature and diluted with water (100 mL) and ethyl acetate (100 mL). The layers were separated, and the aqueous was extracted with additional ethyl acetate (2×100 mL). The combined organics were dried with anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on SiO2 gel, eluting with 100% hexane to 5% ethyl acetate in hexane, to give the title product as a white, solid. MS (ESI) m/z 180 [M+H]+.

reactant | hexamethyldisilazane | 84.0 mmol, 17.7 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | acetic acid | 56 mL | C(C)(=O)O | C2H4O2
reactant | cyclopentanone | 56.3 mmol, 5.0 mL | C1(CCCC1)=O | C5H8O
reactant | ethyl 2-cyanoacetate | 113 mmol, 12.0 mL | C(#N)CC(=O)OCC | C5H7NO2
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 2-cyano-2-cyclopentylideneacetate | C(#N)C(C(=O)OCC)=C1CCCC1 | C10H13NO2
